US06451821B1
A solution of 19.3 g of tert-butyl (1R)-1-benzyl-2-hydroxypropylcarbamate in 160 cm3 of dioxane and 67 cm3 of 6.5N hydrochloric dioxane is stirred at room temperature for 5 hours and is then concentrated under reduced pressure (2 kPa) at a temperature in the region of 40° C. A yellow oil is obtained, and is taken up in 50 cm3 of water and basified to a pH in the region of 10 with potassium carbonate. This mixture is extracted with 3 times l1o cm3 of ethyl acetate and the combined organic phases are then dried over sodium sulfate, filtered and evaporated under reduced pressure (2 kPa) at a temperature in the region of 40° C. 12.9 g of a 75%/25% mixture of the two diastereoisomers A and B of (3R)-3-amino-4-phenyl-2-butanol are obtained in the form of an orange-colored oil. 1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm). A mixture of diastereoisomers is observed: from 0.70 to 1.50 (broad unres. mult.: 2H); 1.08 (d, J=6Hz: 3H); from 2.25 to 2.45 (mt: 1H); from 2.70 to 2.85 (mt: 2H); 3.44 (mt: 1H); from 4.25 to 4.75 (unres. mult.: 1H); from 7.10 to 7.35 (mt: 5H).

reactant | tert-butyl (1R)-1-benzyl-2-hydroxypropylcarbamate | 19.3 g | C(C1=CC=CC=C1)[C@H](C(C)O)NC(OC(C)(C)C)=O | C15H23NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 160 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 6.5N, 67 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 50 cm3 | O | H2O
product | (3R)-3-amino-4-phenyl-2-butanol | N[C@@H](C(C)O)CC1=CC=CC=C1 | C10H15NO
